US07192968B2
(1S,2R,4S)-4-[N-(tert-Butyl)carbamoyl]-N1-[(5-chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
(1S,2R,4S)-N2-(tert-Butoxycarbonyl)-4-[N-(tert-butyl)carbamoyl]-N1-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine was treated with a 4N dioxane solution of hydrochloric acid and then condensed with lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate in a similar manner to Example 118 to obtain the title compound.

reactant | (1S,2R,4S)-N2-(tert-Butoxycarbonyl)-4-[N-(tert-butyl)carbamoyl]-N1-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CC[C@@H](C1)C(NC(C)(C)C)=O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C25H35ClN4O4
reactant | hydrochloric acid | Cl | ClH
reactant | lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | (1S,2R,4S)-4-[N-(tert-Butyl)carbamoyl]-N1-[(5-chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | Cl.C(C)(C)(C)NC(=O)[C@@H]1C[C@H]([C@H](CC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C28H35ClN6O3S.ClH/c1-28(2,3)34-24(36)15-5-7-19(31-25(37)22-13-16-11-17(29)6-8-18(16)30-22)21(12-15)32-26(38)27-33-20-9-10-35(4)14-23(20)39-27;/h6,8,11,13,15,19,21,30H,5,7,9-10,12,14H2,1-4H3,(H,31,37)(H,32,38)(H,34,36);1H/t15-,19-,21+;/m0./s1
